US09108999B2
Preparation of intermediate chiral 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyl-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione
Chiral (2R,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2,4-difluor-O-2-benzoylmethyl-4-methyl-tetrahydrofuran-3-yl benzoate (0.34 g, 0.7 mmol) was dissolved into methanol, and a solution of ammonia in methanol (7 N, 20 mL) was added. The reaction mixture was stirred at room temperature for overnight. The mixture was concentrated, and the residue was purified by silica gel column chromatography (DCM:MeOH=20:1) and pre-HPLC to afford the title compound as a white solid (0.074 g, 38%).

reactant | (2R,3S,4R,5R)-5-(2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)-2,4-difluor-O-2-benzoylmethyl-4-methyl-tetrahydrofuran-3-yl benzoate | 0.7 mmol, 0.34 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@](O[C@H]([C@]1(C)F)N1C(NC(C=C1)=O)=O)(CC(C1=CC=CC=C1)=O)F | C24H20F2N2O6
reactant | ammonia | N | H3N
reactant | methanol | 7 N, 20 mL | CO | CH4O
product | 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyl-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 0.074 g, 38% | F[C@]1([C@@H](O[C@@]([C@H]1O)(CO)F)N1C(NC(C=C1)=O)=O)C | C10H12F2N2O5
